US07288564B2
4-methyl-2-{[(2-phenyl-1H-indol-3-yl)acetyl]amino}benzoic acid
2-Phenyl-3-indole acetic acid (0.166 g), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.127 g) and 4-methylanthranilic acid (0.100 g) in dichloromethane (20 ml) were refluxed for 48 h under nitrogen. The solvent was then removed and the residue purified using mass spectroscopy directed automated HPLC to afford the title compound (0.053 g). LC/MS TR 3.58 min, MH+ 384.

reactant | 2-Phenyl-3-indole acetic acid | 0.166 g | C1(=CC=CC=C1)C=1NC2=CC=CC=C2C1CC(=O)O | C16H13NO2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.127 g | Cl.CN(CCCN=C=NCC)C
reactant | 4-methylanthranilic acid | 0.100 g | CC=1C=C(C(C(=O)O)=CC1)N | C8H9NO2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 4-methyl-2-{[(2-phenyl-1H-indol-3-yl)acetyl]amino}benzoic acid | 0.053 g | CC1=CC(=C(C(=O)O)C=C1)NC(CC1=C(NC2=CC=CC=C12)C1=CC=CC=C1)=O | C24H20N2O3
